US07094777B2
Step 3: 1-(4-Fluoro-2-methylphenyl)-2-(3-{[(4-fluorophenyl)sulfonyl]methyl}azetidin-1-yl)ethanone
A mixture of 3-{[(4-fluorophenyl)sulfonyl]methyl}azetidine hydrochloride (75 mg, 0.28 mmol) in MeCN (5 mL) was treated with Et3N (97 μL, 0.7 mmol) and 2-bromo-1-(4-fluoro-2-methylphenyl)ethanone (72 mg, 0.31 mmol) and stirred for 30 min at room temperature. The reaction was evaporated and the residue dissolved in DCM and purified using 10 g silica bond-elute cartridge on the personal flash master. The column was eluted with 0.5% MeOH/DCM then 1% MeOH/DCM to give the title compound as a cream solid (60 mg, 56%). 1H NMR (500 MHz, CDCl3)δ2.49 (3H, s), 2.93–2.98 (1H, m), 3.08 (2H, t, J=7.4 Hz), 3.41 (2H, d, J=7.4 Hz), 3.62 (2H, t, J=7.4 Hz), 3.77 (2H, s), 6.89–6.95 (2H, m), 7.23–7.27 (2H, t, J=8.8 Hz), 7.61 (1H, dd, J=5.8 & 8.5 Hz), 7.90–7.92 (2H, dd, J=5.2 & 8.8 Hz). m/z (ES+) 380 (M+H)+.

reactant | 3-{[(4-fluorophenyl)sulfonyl]methyl}azetidine hydrochloride | 0.28 mmol, 75 mg | Cl.FC1=CC=C(C=C1)S(=O)(=O)CC1CNC1
reactant | Et3N | 0.7 mmol, 97 μL | CCN(CC)CC | C6H15N
reactant | 2-bromo-1-(4-fluoro-2-methylphenyl)ethanone | 0.31 mmol, 72 mg | BrCC(=O)C1=C(C=C(C=C1)F)C | C9H8BrFO
solvent | MeCN | 5 mL | CC#N | C2H3N
product | 1-(4-Fluoro-2-methylphenyl)-2-(3-{[(4-fluorophenyl)sulfonyl]methyl}azetidin-1-yl)ethanone | 60 mg, 56% | FC1=CC(=C(C=C1)C(CN1CC(C1)CS(=O)(=O)C1=CC=C(C=C1)F)=O)C | C19H19F2NO3S
